US08461153B2
7-Chloro-5-(4-fluorophenyl)-3-(2-methylbenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one
7-Chloro-5-(4-fluorophenyl)-1-(4-methoxybenzyl)-3-(2-methylbenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (44 mg, 0.086 mmol) was dissolved in dichloroethane (1 mL) under nitrogen and 200 μL of anisole was added followed by AlCl3 (69 mg, 0.515 mmol). This mixture was heated to 85° C. for 2.5 h then allowed to cool and diluted with ethyl acetate and ice. This biphasic mixture was stirred vigorously for 20 min, then partitioned, and the organic layer was washed with water twice, then brine once. The aqueous layers were back-extracted once with ethyl acetate, and the combined organic extracts dried over MgSO4. Chromatography on silica gel (5%-30%-40%-50% ethyl acetate in hexanes) provided the title compound (27 mg, 80%) as a yellow solid. APCI MS m/z 415.1 [M+Na+], 393.1 [M+H+]; 1H NMR (300 MHz, CDCl3) δ 9.28 (s, 1H), 7.61-7.16 (m, 11H), 3.91 (t, J=7 Hz, 1H), 3.72-3.69 (m, 2H), 2.50 (s, 3H).

reactant | 7-Chloro-5-(4-fluorophenyl)-1-(4-methoxybenzyl)-3-(2-methylbenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.086 mmol, 44 mg | ClC1=CC2=C(N(C(C(N=C2C2=CC=C(C=C2)F)CC2=C(C=CC=C2)C)=O)CC2=CC=C(C=C2)OC)C=C1 | C31H26ClFN2O2
reactant | anisole | 200 μL | C1(=CC=CC=C1)OC | C7H8O
reactant | AlCl3 | 0.515 mmol, 69 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-5-(4-fluorophenyl)-3-(2-methylbenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 27 mg, 80% | ClC1=CC2=C(NC(C(N=C2C2=CC=C(C=C2)F)CC2=C(C=CC=C2)C)=O)C=C1 | C23H18ClFN2O
